US05981537
Preparation of 4-amino-2-(2-pyridylmethylthio)-pyrimidine; Cpd #94
4-Amino-2-mercaptopyrimidine (0.40 g, 3.15 mmol) is slurried in ethanol (2 ml) and 3.25 M NaOH (2.0 ml, 6.5 mmol) is added. The solution is heated to reflux for 10 minutes and after cooling to 22° C., 2-picolyl chloride*HCl (0.49 g, 2.98 mmol) is added. The solution is heated to reflux for an additional 15 minutes. The solution is cooled and concentrated in vacuo. The residue is dissolved in 1 N HCl and diluted with ethyl acetate. The mixture is neutralized with NaOH to pH 8 and the aqueous layer is separated and washed twice with ethyl acetate. The combined organic layers are washed with saturated NaHCO3, saturated NaCl, dried with MgSO4 and concentrated in vacuo, mp 133-134° C.

reactant | 4-Amino-2-mercaptopyrimidine | 3.15 mmol, 0.40 g | NC1=NC(=NC=C1)S | C4H5N3S
reactant | NaOH | 6.5 mmol, 3.25 M, 2.0 ml | [OH-].[Na+]
reactant | 2-picolyl chloride | 2.98 mmol, 0.49 g | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-amino-2-(2-pyridylmethylthio)-pyrimidine | NC1=NC(=NC=C1)SCC1=NC=CC=C1 | C10H10N4S
